US05965741
To a stirred suspension of benzyl triphenylphosphonium bromide (7.44 g, 17.2 mmol) in freshly distilled THF (60 ml), under argon, was added a solution of LiN(SiMe3)2 (18.2 ml, 1N). The resulting red solution was allowed to stir for 30 minutes, then a solution of 5-bromo-2-benzyloxybenzaldehyde (5.0 g, 17.2 mmol) in freshly distilled THF (15 ml) added. The reaction was stirred at ambient temperature for 60 hours, treated with 1N aqueous HCl (60 ml) and extracted with ethyl ether (2×). The combined etherial extracts were washed with brine, dried (MgSO4) and evaporated. The residue was purified by chromatography (eluant:hexane) to give β-(2-benzyloxy-5-bromophenyl)styrene as a white solid (5.5 g, 88%).

reactant | benzyl triphenylphosphonium bromide | 17.2 mmol, 7.44 g | [Br-].C(C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | LiN(SiMe3)2 | 1N, 18.2 ml | [Li]N([Si](C)(C)C)[Si](C)(C)C
reactant | 5-bromo-2-benzyloxybenzaldehyde | 17.2 mmol, 5.0 g | BrC=1C=CC(=C(C=O)C1)OCC1=CC=CC=C1 | C14H11BrO2
reactant | HCl | 1N, 60 ml | Cl | ClH
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | β-(2-benzyloxy-5-bromophenyl)styrene | 5.5 g, 88% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Br)C=CC1=CC=CC=C1 | C21H17BrO
